US06703387B2
To a solution of 43 mg, 0.125 mmol) of (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-7-amine hydrochloride in 3 ml of dichloromethane was added 0.05 ml, 0.626 mmol) of pyridine, and 0.02 ml of acetic anhydride (0.15 mmol). The solution was stirred for 4 hours, concentrated under reduced pressure and the residue partitioned between brine and dichloromethane. The organic phase was dried over magnesium sulphate, filtered and evaporated, The residue was chromatographed on silica gel using first dichloromethane/methanol (98:2) and then dichloromethane/methanol (97:3) for the elution. The product was redissolved in a solution of hydrogen chloride in ethyl acetate and the solvent removed to afford (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-7-acetamide hydrochloride as a dark red solid MS: m/e 388.2 [M+H]+.

reactant | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-7-amine hydrochloride | Cl.ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=C(C=C3)N)C)C=CC1Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.15 mmol, 0.02 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (E)-5-(3,4-dichlorostyryl)-2,3-dihydro-1-methyl-1H-1,4-benzodiazepin-7-acetamide hydrochloride | Cl.ClC=1C=C(C=C\C\2=N/CCN(C3=C2C=C(C=C3)CC(=O)N)C)C=CC1Cl | InChI=1S/C20H19Cl2N3O.ClH/c1-25-9-8-24-18(6-3-13-2-5-16(21)17(22)11-13)15-10-14(12-20(23)26)4-7-19(15)25;/h2-7,10-11H,8-9,12H2,1H3,(H2,23,26);1H
